### PR TITLE
[Merged by Bors] - feat(NumberTheory/{GaussSum|JacobiSum/Basic}): formula for g(χ)^ord(χ)

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
We continue with adding properties of Gauss and Jacobi sums. This PR shows that `g(χ)^n = χ(-1) * #F * J(χ,χ) * J(χ,χ²) * ... * J(χ,χⁿ⁻²)` when `χ` is a multiplicative character on the finite field `F` of order `n` (and with values in a domain).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/JacobiSum/Basic.lean [hunk 1]
```diff
@@ -298,3 +298,41 @@ lemma exists_jacobiSum_eq_neg_one_add [DecidableEq F] {n : ℕ} (hn : 2 < n) {χ
...
+
+variable {F R : Type*} [Fintype F] [Field F] [CommRing R] [IsDomain R]
+
+/-- If `χ` is a multiplicative character of order `n ≥ 2` on a finite field `F`,
+then `g(χ)^n = χ(-1) * #F * J(χ,χ) * J(χ,χ²) * ... * J(χ,χⁿ⁻²)`. -/
+theorem gaussSum_pow_eq_prod_jacobiSum {χ : MulChar F R} {ψ : AddChar F R} (hχ : 2 ≤ orderOf χ)
+    (hψ : ψ.IsPrimitive) :
+    gaussSum χ ψ ^ orderOf χ =
+      χ (-1) * Fintype.card F * ∏ i ∈ Ico 1 (orderOf χ - 1), jacobiSum χ (χ ^ i) := by
+  -- show `g(χ)^i = g(χ^i) * J(χ,χ)*...*J(χ,χ^(i-1))` for `1 ≤ i < n` by induction
```
Comment (loefflerd) [inline Mathlib/NumberTheory/JacobiSum/Basic.lean:312]: Might it be worth splitting off this step into a separate lemma? It might be useful somewhere, and it's also rather pretty :smile:

**Review by loefflerd — COMMENTED** [review]
This looks great, thanks! Just one minor comment, otherwise happy to recommend merging.

File: Mathlib/NumberTheory/JacobiSum/Basic.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/JacobiSum/Basic.lean]: OK, done.

**Comment by loefflerd** [comment]
LGTM

maintainer merge

File: Mathlib/NumberTheory/GaussSum.lean [hunk 2]
```diff
@@ -97,8 +97,15 @@ lemma gaussSum_mul {R : Type u} [CommRing R] [Fintype R] {R' : Type v} [CommRing
     · exact fun a _ ↦ by rw [add_sub_cancel_right, add_comm]
   rw [sum_congr rfl fun x _ ↦ sum_eq x, sum_comm]
 
--- In the following, we need `R` to be a finite field and `R'` to be a domain.
-variable {R : Type u} [Field R] [Fintype R] {R' : Type v} [CommRing R'] [IsDomain R']
+-- In the following, we need `R` to be a finite field.
+variable {R : Type u} [Field R] [Fintype R] {R' : Type v} [CommRing R']
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/GaussSum.lean:101]: How annoying would be to replace `Fintype` with `Finite`? Don't worry if it is a big refactor.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/GaussSum.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/GaussSum.lean:101]: Basically impossible; you cannot talk about sums over a finite type unless you have a `Fintype` instance on it (`Finset.univ` requires `Fintype`).
